US08877754B2
2-Methyl-2-[4-(4-propoxy-phenylethynyl)-phenyl]-propionic acid
A mixture of 26 mg (1.1 mmol) lithiumhydroxide and 99 μL (1.1 mmol) hydrogen peroxide in 0.7 mL water is added to 0.25 g (0.74 mmol) 2-methyl-2-[4-(4-propoxy-phenylethynyl)-phenyl]-propionic acid methyl ester (XI.4) in 7 mL THF. The reaction mixture is stirred at rt for 5 d. After that time, 0.5 N potassium hydrogensulfate solution is added. The precipitate is filtered off, washed with water and dried at 45° C. to yield the desired product.

reactant | lithiumhydroxide | 1.1 mmol, 26 mg | [OH-].[Li+]
reactant | hydrogen peroxide | 1.1 mmol, 99 μL | OO | H2O2
reactant | 2-methyl-2-[4-(4-propoxy-phenylethynyl)-phenyl]-propionic acid methyl ester | 0.74 mmol, 0.25 g | COC(C(C)(C1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCCC)C)=O | C22H24O3
reactant | potassium hydrogensulfate | 0.5 N | S(=O)(=O)(O)[O-].[K+]
solvent | water | 0.7 mL | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-[4-(4-propoxy-phenylethynyl)-phenyl]-propionic acid | CC(C(=O)O)(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCCC | C21H22O3
